2164-08-29 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2164-8-29**] 04:00 AM
   - patient refused to take PO meds
   - tried diltiazem gtt with HR in 110-130 range.
   - d/c diltiazem and changed to esmolol gtt.  HR fell below 100bpm, and
   within 15 minutes, patient developed sinus rhythm.  Given another L NS
   to keep SBP >90.
   - O2 sat dropped transiently to the high 80s, and NC increased to 6L
   and 100% O2 facemask with O2 sats in the high 90s. O2 weaned through
   the night and now satting high 90s on 6L NC.
   - at ~5AM, BP found to drop to 70s SBP, esmolol gtt held.  Temp spiked
   to 101.1.  Written for tylenol PR.  Blood and urine cultures obtained.
    Cipro 400mg IV q12 and flagyl 500mg IV q8h begun.  1L bolus given.
   Will start maintenance fluids 125 cc D51/2 NS following bolus.
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2164-8-28**] 08:30 PM
   Morphine Sulfate - [**2164-8-28**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 101 (95 - 136) bpm
   BP: 89/46(53) {84/36(53) - 107/62(67)} mmHg
   RR: 30 (15 - 43) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,133 mL
                                                                  1,068 mL
   PO:
             TF:
   IVF:
                                                                  1,133 mL
                                                                  1,068 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    580 mL
   Urine:
                                                                    380 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Gen: Awake, NAD, lying in bed.
   Heent: Scleral icterus positive.  Dry mucous membranes.  Neck supple.
   Resp: Clear to auscultation bilaterally with no wheezes, rales, or
   rhonchi.
   CV: Irregularly irregular rate with SEM best ausculatated over left
   sternal border.
   Abd: Bowel sounds present, abdomen soft, NT, ND.  No guarding,
   rigidity, or rebound pain.
   Extrem: Warm and well-perfused.  No pedal edema.
   Neuro:  awake, alert, can squeeze hand to command.  Does not speak.
   Will not track gaze.  PERRLA.  Can move all extremities.
   Skin: Jaundiced
   Labs / Radiology
   64 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.5 mEq/L
   14 mg/dL
   103 mEq/L
   135 mEq/L
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
   Cr
   0.7
   0.9
   Glucose
   62
   64
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Micro:
   Pending blood culture from [**2164-8-29**]
   Micro:
   [**8-23**]: urine cx: no growth final
   [**8-24**], [**8-25**]: blood cx: pending
   U/A: negative
   Images:  None for today
   - RUQ: [**8-23**]: cholelithiasis with no sign of cholecystitis
    - ERCP [**8-28**]: Impacted stone in the major papilla.
     * Many round stones ranging in size from 4mm to 5mm were seen in the
       biliary tree, in the common bile duct, the cystic duct and the
       gallbladder.
     * One stone was seen at the origin of the left intrahepatic duct.
     * A sphincterotomy was performed in the 12 o'clock position using a
       sphincterotome over an existing guidewire.
     * The impacted stone was released following sphincterotomy
     * Multiple (>10) stones were successfully extracted using a 11.5 mm
       RX balloon, requiring multiple balloon sweeps for clearance
     * The stone in the left intrahepatic duct was extracted successfully
       using a 4mm Hurricane balloon.
     * The intrahepatic duct and common bile duct were clear at the end of
       the procedure
     * Otherwise normal ercp to third part of the duodenum
   - CXR: [**8-24**]: cardiomediastinal silhouette appears unremarkable and
   unchanged from previous study.  The hila appeared normal bilaterally.
   Lung fields are clear.  No evidence of pleural effusion or PTX.
   -EEG: [**8-27**]:
   This telemetry captured no pushbutton activations and no
   clinical evident seizures. There was a lot of interictal activity both
   in a generalized and multifocal distribution. The background activity
   was slow suggestive of a moderate encephalopathy. In addition, there
   were periods of more rhythmic activity mostly bifrontal in distribution
   which may represent subclinical seizures
   Assessment and Plan
   35yo M with PMH of [**Location (un) 8891**]-Gastaut Syndrome, s/p ERCP for gallstones in
   the biliary tree, transferred to the ICU for atrial fibrillation with
   RVR.  Now on diltiazem drip and hemodynamically stable.
   .
   # A fib with RVR:  Occurred in the setting of extubation and ERCP,
   which may have been stressors.  No underlying cardiac or pulmonary
   disease.  No known history of a. fib in the past.  Unlikely infectious
   etiology, given lack of leukocytosis, fever, and clear CXR.  Appears
   dry, may be volume depleted.
   - Has received diltiazem IV push with mild efficacy.
   - Due to question of ability to take PO meds, begun on diltiazem gtt
   with mild decrease in HR.  Will need to add PO dilt, but question of
   adequate PO intake.
   - added esmolol gtt with conversion to sinus rhythm.  Unfortunately,
   due to transient hypotension with BP in 70s, was held.  Has remained in
   sinus rhythm with rate in the low 100s.
   - echo in the AM, but unsure if patient will tolerate
   - continue 1L NS boluses for SBP goal > 90
   - Place on telemetry
   .
   # hypoxia: initially on presentation was afebrile with no leukocytosis,
   but there was low threshold to start abx with concern for post-ERCP
   seeding, sepsis.  Also concern for possible aspiration pneumonia vs.
   pneumonitis given intubation/extubation X 2.  Consider aspiration
   pneumonia secondary to intubation X 2.
   - initially had increased O2 requirement, but now satting high 90s on
   5L NC
   - attempt to obtain CXR this AM
   - abg unable to obtain due to inability to hold still
   .
   # fever/leukocytosis: spike to 101.1 overnight.  Pending CBC for this
   AM.  Source of infection unclear, but possibiltiies include post-ERCP
   seeding, aspiration pneumonia.  Has already completed 13 day course of
   unasyn for prostatitis ([**8-22**]).
   - urine cx negative on [**8-23**]
   - pending blood cx from [**8-29**]; urine cx pending
   - no diarrhea
   - repeat CXR
   - Was started on Cipro 400mg IV q12 and flagyl 500mg IV q8h this AM.
   Patient has pen/cephalosporin allergy.
   - likely will need peripheral IV change, but per IV team, no other
   veins to access.
   .
   # transaminitis, increased alk phos/total bili:  s/p ERCP with
   sphincterotomy on [**8-28**] showing an impacted stone in the major papilla
   and with successful removal of over 10 gallstones.  Hepatic cholestasis
   may also be secondary to depakote or fexofenadine medication.
   - continue trending LFTs, bilirubin, alk phos.  Monitor for improvement
   in markers s/p ERCP.
   - avoid hepatotoxins; depakote, zonegram and fexofenadine have been
   d/c'ed.
   - Hepatitis serologies all negative
   - hepatology following; post ERCP recommend NPO overnight with IVF.
   [**Month (only) 8**] advance diet in the AM.  Consider cholecystectomy in the future.
   .
   #. [**Location (un) 8891**]-Gastaut Syndrome: followed by neuro and seizure activity
   appears to be at baseline.
   - Keppra continued at 1500mg IV BID.  Will change to PO if patient is
   able to tolerate (has had successful PO intake when meds mixed with
   tomato juice)
   - duazeoan 10mg IM q6h prn seizure longer than 5 minutes of >3h
   - may need 1:1 sitter
   .
   # Questionable encephalopathy: Spoke to mother, who reports patient is
   at baseline mental status with no changes.  EEG suggested
   encephalopathy, and per neurology, unlikely related to seizure
   activity.  Suggested to be due to toxic/metabolic effect of cholestatic
   hepatitis.
   - ammonia levels on [**8-24**]: 84 (elevated).  Continue to monitor.
   - aspiration precautions
   .
   #. FEN: dysphagia diet (taking great POs), monitor lytes, IVF to
   maintain SBP
   .
   #. PPx: SC Heparin, bowel regimen
   .
   #. Code: DNR/DNI, confirmed with HCP
   .
   #. Communication: [**Name (NI) **] [**Name (NI) 8892**] (HCP) [**Telephone/Fax (1) 8893**]
   .
   #. Dispo: ICU until rate controlled
   ICU Care
   Nutrition: NPO, advance diet this AM if tolerable
   Glycemic Control:
   Lines: 2 peripherals currently.
   20 Gauge - [**2164-8-28**] 08:58 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer:  bibe
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not resuscitate).  Confirmed with HCP.
   Disposition: ICU today

2164-08-29 09:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Atrial Fibrillation
   [**Location (un) 8891**]-Gestaut
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2164-8-29**] 04:00 AM
   -Patient with Dilt gtt--changed to Esmolol--conversion to sinus rhythm
   and subsequently discontinued
   -Patient with acute hypoxia overnight with subsequent weaning of oxygen
   across the night
   -Patient required 1 liter IVF overnight with fever and hypotension
   noted.
   History obtained from Medical records
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2164-8-29**] 06:30 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2164-8-28**] 08:30 PM
   Morphine Sulfate - [**2164-8-28**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2164-8-29**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 100 (91 - 136) bpm
   BP: 81/50(57) {81/36(53) - 107/62(67)} mmHg
   RR: 29 (15 - 43) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,133 mL
                                                                  2,252 mL
   PO:
             TF:
   IVF:
                                                                  1,133 mL
                                                                  2,252 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    700 mL
   Urine:
                                                                    380 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                  1,552 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///19/
   Physical Examination
   Eyes / Conjunctiva: Dry mucus membranese
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), return
   to regular rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: , Rhonchorous: rare)
but with clear
   bronchial breath sounds at left base.
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.5 mEq/L
   14 mg/dL
   103 mEq/L
   135 mEq/L
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
   WBC
   3.2
   Hct
   32.7
   Plt
   325
   Cr
   0.7
   0.9
   Glucose
   62
   64
   Other labs: PT / PTT / INR:14.5/32.8/1.3, ALT / AST:85/97 (decreased),
   Alk Phos / T Bili:589/10.4  (persistent elevation), Amylase /
   Lipase:40/63, Albumin:2.6 g/dL, LDH:178 IU/L (from 564), Ca++:8.3
   mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Patient with substantial volume loss in left chest
   consistent with collapse of left lower lobe and likely lingula
movement
   of diaphragm elevation seen as well.
   Assessment and Plan
   35 yo male with [**Location (un) 8891**]-Gestaut syndrome (baseline--non-verbal,
   persistent seizures) with initial admission with prostatitis who now
   had cholelithiasis driving cholecystitis and following ERCP with
   substantial stone removal had re-intubation with ventilatory failure
   complicated by evolution of Atrial Fibrillation with rapid ventricular
   response.  His course overnight was complicated by hyptension, fever
   and hypoxia but with conversion to sinus rhythm.
   1)Respiratory Failure/Hypoxia-Initial failure was likely related to
   medication effects but now has substantial post operative
   atelectasis
this may be related to fever in addition to the hypoxia.
   -Intermittent positive pressure ventilation
   -Incentive spirometry may be difficult for patient
   -Will consider bronchoscopy if patient unable to clear
   -Chest PT and intermittent positive pressure ventilation today.
   2)Atrial Fibrillation-Patient with evolution of this seen in acute
   setting with re-intubation.
   -Will maintain adequate volume
   -Will continue with PRN rate control only as he remains in sinus rhythm
   at this time
   -Will need longer term follow up of ECHO and TSH to complete evaluation
   -Tylenol for fever
   3)[**Location (un) 8891**]-Gestaut-
   -Keppra
   4)Cholelithiasis with Cholecystitis-
   -Cipro/Flagyl
   -Will follow enzymes with encouraging results from ERCP by report
   -Will trend AP and T. Bili
   -Follow up culture results
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: NPO this morning
   Glycemic Control:
   Lines: Single 20ga P-IV, will get PICC for improved access
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
will pursue all possible measures
   for support in the setting of current insult and in the context of
   DNR/DNI status
   Disposition :ICU
   Total time spent: 35 minutes

2164-08-30 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2164-8-29**] 08:00 PM
   - continued difficulty obtaining access.  A Picc was attempted but was
   unsuccessful.  Was able to insert second 20G PIV.  Around 8PM, found to
   by hypotensive with BP in 80s, received 1L NS bolus, and BP responded
   to be the 90s.
   - blood cx grew out GPC in clusters in aerobic and anaerobic cultures
   - therefore started vanco 1gram IV q12h
   - neuro recs: none
   - hepatology signed off.
   - ERCP recs: continue to watch bili, duct has been cleared so should
   start to fall, if continues to rise, will discuss about possible stent
   insertion but this discussion is premature at this point.
   - put pt on maintenance fluids as NPO
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-8-29**] 08:04 PM
   Vancomycin - [**2164-8-29**] 11:00 PM
   Metronidazole - [**2164-8-30**] 12:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-8-30**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-30**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 106 (91 - 119) bpm
   BP: 93/59(68) {80/41(52) - 111/69(79)} mmHg
   RR: 32 (23 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,031 mL
                                                                    879 mL
   PO:
             TF:
   IVF:
                                                                  6,031 mL
                                                                    879 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,640 mL
   Urine:
                                                                  2,800 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,231 mL
                                                                   -761 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: Awake, NAD, lying in bed.
   Heent: Scleral icterus positive.  Dry mucous membranes.  Neck supple.
   Resp: left sided rhonchi, no dullness or hyperresonance appreciated.
   CV: Irregularly irregular rate with SEM best ausculatated over left
   sternal border.
   Abd: Bowel sounds present, abdomen soft, NT, ND.  No guarding,
   rigidity, or rebound pain.
   Extrem: Warm and well-perfused.  No pedal edema.
   Neuro:  awake, alert, can squeeze hand to command.  Does not speak.
   Will not track gaze.  PERRLA.  Can move all extremities.
   Skin: Jaundiced
   Labs / Radiology
   212 K/uL
   9.1 g/dL
   132 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   5 mg/dL
   107 mEq/L
   139 mEq/L
   28.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
                             [**2164-8-30**]  03:52 AM
   WBC
   8.9
   Hct
   28.1
   Plt
   212
   Cr
   0.7
   0.9
   0.7
   Glucose
   62
   64
   132
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   AST: 67
   ALT: 84
   AP: 477
   T Bili: 11.1 (up from 10.4)
   Lipase: 27
   Micro: 2/2 bottles growing gram positive cocci in clusters.
   Pending urine culture [**8-29**]
   MRSA ([**8-29**]): Positive
   CXR: ([**8-29**]) :
   The lower half of the left hemithorax is uniformly opacified, and there
   is a
   sharp cutoff to the lumen of the left main bronchus at the level of the
   upper
   lobe origin. Some of the opacification is due to left pleural effusion
   and
   some, given the absence of rightward mediastinal shift, is due to lower
   lobe
   and lingular collapse. Right lung is clear. Cardiac size cannot be
   assessed.
   Findings were discussed by telephone with Dr. [**Last Name (STitle) 5888**] at the time of
   dictation.
   Assessment and Plan
   35yo M with PMH of [**Location (un) 8891**]-Gastaut Syndrome, s/p ERCP for gallstones in
   the biliary tree, transferred to the ICU for atrial fibrillation with
   RVR and atelectasis.
   .
   # sepsis: gram MRSA bacteremia.  Spike to 101.2 overnight in
   conjunction with rising WBC.  Source of infection likely biliary source
   s/p ERCP, but concern for urinary source and VRE given history of
   prostatitis, introduction through the skin given difficulty with Ivs,
   aspiration pneumonia given intubation/extubation.
   - follow urine and blood cultures for speciation
   - continue on day 2 of vancomycin 1g q12 hours (day 1: [**8-29**])
   - Continue day 2 of 5 day course of Cipro 400mg IV q12 and flagyl 500mg
   IV q8h this AM (day 1: [**8-29**] of 5 day course).  Patient has
   pen/cephalosporin allergy.
   - will obtain echo today
   - unable to place PICC line.  Has 2 peripheral IVs.
   - repeat CXR tomorrow AM
   - IVF boluses as needed to keep SBP > 90
   - robust urine output
   .
   # hypoxia: continued to have oxygen sats in the mid to high 90s.  CXR
   yesterday showed left sided pleural effusion and lower lobe and lingula
   atelectasis.  Likely secondary to trauma regarding
   intubation/extubation, barotrauma, pain.
   - satting high 90s on oxygen facemask.  Frequently takes off mask
   voluntarily.
   - continue chest PT to mobilize secretions, patient will unlikely
   cooperate with incentive spirometry
   - continue with antibiotics
   - trial with intermittent positive pressure noninvasive mask
   unsuccessful
   - consider bronch should conservative management fail
   - unable to diurese pleural fluid given hypotension
   .
   # A fib with RVR:  Occurred in the setting of acute disease -
   reintubation/extubation and ERCP, now found to have partial lung
   collapse and MRSA bacteremia, all of  which may have been
   contributors.  Also considering volume depletion as a cause given his
   recent hx of poor PO intake.
   - No known history of a. fib in the past.  No underlying pulmonary
   disease but questionable hx of cardiomyopathy.
   - continues to be in sinus, rate in the low 100s
   - treat tachy with IVF, pain control, and txt his infection
   - episodes of hypotension responded well to IV boluses with goal SBP >
   90
   - continue 1L NS boluses for SBP goal > 90
   - urine output has remained robust >30 cc/h
   .
   # transaminitis, increased alk phos/total bili:  s/p ERCP with
   sphincterotomy on [**8-28**] showing an impacted stone in the major papilla
   and with successful removal of over 10 gallstones.  Hepatic cholestasis
   may also be secondary to depakote or fexofenadine medication.
   - liver enzymes trending downward with the exeption of t bili.  Remains
   jaundiced.
   - ERCP recs: continue to watch bili, alk phos, LFTs; duct has been
   cleared so should start to fall, if continues to rise, will discuss
   about possible stent insertion but this discussion is premature at this
   point.
   - avoid hepatotoxins; depakote, zonegram and fexofenadine have been
   d/c'ed.
   - Hepatitis serologies all negative
   - hepatology signed off
   .
   # anemia: drop in hematocrit from 32 to 28.  Normocytic.
   - low fe, low TIBC, and elevated ferritin suggests anemia of chronic
   disease.
   - prior folate, B12 WNL.
   - continue to trend hematocrit; transfuse above 21
   #. [**Location (un) 8891**]-Gastaut Syndrome: followed by neuro and seizure activity
   appears to be at baseline.
   - Keppra continued at 1500mg IV BID.  Will change to PO if patient is
   able to tolerate (has had successful PO intake when meds mixed with
   tomato juice)
   - duazepan 10mg IM q6h prn seizure longer than 5 minutes of >3h
   - may need 1:1 sitter
   .
   # Questionable encephalopathy: Spoke to mother, who reports patient is
   at baseline mental status with no changes.  EEG suggested
   encephalopathy, and per neurology, unlikely related to seizure
   activity.  Suggested to be due to toxic/metabolic effect of cholestatic
   hepatitis.
   - aspiration precautions
   .
   #. FEN: still NPO, monitor lytes, continued on maintenance fluids
   .
   #. PPx: SC Heparin, bowel regimen
   .
   #. Code: DNR/DNI, confirmed with HCP
   .
   #. Communication: [**Name (NI) **] [**Name (NI) 8892**] (HCP) [**Telephone/Fax (1) 8893**]
   .
   #. Dispo: ICU until rate controlled
   ICU Care
   Nutrition: NPO, advance diet this AM if tolerable
   Glycemic Control:
   Lines:
   22 gauge
   20 Gauge - [**2164-8-28**] 08:58 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer:  none
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not resuscitate).  Confirmed with HCP.
   Disposition: ICU today

2164-08-30 12:35:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis
   Sepsis
   Atelectasis
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2164-8-29**] 08:00 PM
   BP controlled with IVF bolus last pm
   Positive blood cultures return with GPC and Vanco started and now
   continued.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-8-30**] 08:20 AM
   Metronidazole - [**2164-8-30**] 08:30 AM
   Ciprofloxacin - [**2164-8-30**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-8-30**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2164-8-30**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 107 (96 - 119) bpm
   BP: 97/62(70) {80/41(52) - 111/70(79)} mmHg
   RR: 32 (23 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,031 mL
                                                                  2,186 mL
   PO:
             TF:
   IVF:
                                                                  6,031 mL
                                                                  2,186 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  2,995 mL
   Urine:
                                                                  2,800 mL
                                                                  2,995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,231 mL
                                                                   -809 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   212 K/uL
   132 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.4 mEq/L
   5 mg/dL
   107 mEq/L
   139 mEq/L
   28.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
                             [**2164-8-30**]  03:52 AM
   WBC
   8.9
   Hct
   28.1
   Plt
   212
   Cr
   0.7
   0.9
   0.7
   Glucose
   62
   64
   132
   Other labs: PT / PTT / INR:16.7/43.3/1.5, ALT / AST:84/67, Alk Phos / T
   Bili:477/11.1, Amylase / Lipase:27/27, Albumin:2.4 g/dL, LDH:138 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Microbiology: Blood--Gram positive cocci
   Assessment and Plan
   35 yo male with h/o intractable seizure with gallstones and course with
   ERCP complicated by atrial fibrillation and atelectasis.  Following
   procedrue Lipase and other enzymes except T. Bili have decrased.
   Sepsis-
   Vanco/Cipro/Flagyl for likely biliary source
   -Will continue to follow culture results
   -Decompression likely adequate but with slow to resolve alk phos
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
   Seen in the setting of acute illness and clearly diminished at this
   time
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   -Keppra
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
He has significant areas of
   collapse and effusion seen on CXR
   -Will continue to work with chest PT to mobilize secretions
   -Continue with antibiotics
   ICU Care
   Nutrition: NPO given altered mental status and tenuous respiratory
   status
   Glycemic Control:
   Lines:
   22 Gauge - [**2164-8-29**] 09:02 AM
   20 Gauge - [**2164-8-29**] 10:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2164-08-31 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - TTE: Suboptimal image quality as the patient was difficult to
   position.  No evidence of endocarditis or abscess. Hyperdynamic LV
   systolic function with EF > 75%.  Normal diastolic dysfunction
   - ERCP recs: concerned about the elev bili -> considering repeat ERCP
   should levels continue to remain elevated
   - uanble to get CXR yesterday bc pt unable to stay still
   - gave 1L NS bolus in AM, another 500 cc in PM to maintain BPs,
   maintained good UOP
   - Neuro aware of pt- will come by if there are active Neuro issues
   - was agitated yesterday afternoon, desatted to the 80s, got Ativan 1
   mg IV once
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-8-30**] 07:32 PM
   Ciprofloxacin - [**2164-8-30**] 10:16 PM
   Metronidazole - [**2164-8-31**] 12:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-8-31**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-31**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 120) bpm
   BP: 104/62(72) {67/38(41) - 120/97(103)} mmHg
   RR: 27 (23 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,482 mL
                                                                  1,348 mL
   PO:
             TF:
   IVF:
                                                                  6,482 mL
                                                                  1,348 mL
   Blood products:
   Total out:
                                                                  4,920 mL
                                                                    710 mL
   Urine:
                                                                  4,920 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,562 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.0 g/dL
   121 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   4 mg/dL
   109 mEq/L
   138 mEq/L
   24.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
                             [**2164-8-30**]  03:52 AM
                             [**2164-8-31**]  03:46 AM
   WBC
   8.9
   6.8
   Hct
   28.1
   24.5
   Plt
   212
   193
   Cr
   0.7
   0.9
   0.7
   0.7
   Glucose
   62
   64
   132
   121
   Other labs: PT / PTT / INR:16.7/43.3/1.5, ALT / AST:56/36, Alk Phos / T
   Bili:342/10.8, Amylase / Lipase:27/18, Albumin:2.1 g/dL, LDH:133 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   ALT: 56, AST: 36, AP: 342, LDH: 133, T bili: 10.8, lipase: 18
   - positive MRSA from [**8-28**]
   - blood culture ([**8-29**]): staph aureus coag +, resistant to oxacillin.
   ([**8-30**], [**8-31**] cultures pending)
   - urine cx ([**8-29**]): pending
   - echo ([**8-30**]):
   IMPRESSION: No evidence of endocarditis or abscess. Hyperdynamic LV
   systolic function. Normal diastolic function. No significant valvular
   regurgitation seen.
   - CXR: ([**8-31**]): my read: worsening left sided lung collapse
   Assessment and Plan
   35yo M with PMH of [**Location (un) 8891**]-Gastaut Syndrome, s/p ERCP for gallstones in
   the biliary tree, transferred to the ICU for atrial fibrillation with
   RVR and atelectasis.
   .
   # sepsis: gram MRSA bacteremia.  Temperature did not spike as high
   overnight, currently afebrile, with downtrending WBC.  Source of
   infection likely biliary source s/p ERCP, but concern for urinary
   source and VRE given history of prostatitis, introduction through the
   skin given difficulty with Ivs, aspiration pneumonia given
   intubation/extubation.
   - follow urine cultures
   - continue on day 3 of vancomycin 1g q12 hours (day 1: [**8-29**])
   - Continue day 3 of 5 day course of Cipro 400mg IV q12 and flagyl 500mg
   IV q8h this AM (day 1: [**8-29**] of 5 day course).  Patient has
   pen/cephalosporin allergy.
   - echo does not suggest endocarditis, but suboptimal study
   - Has 2 peripheral Ivs for access
   - continue IVF boluses as needed to keep SBP > 90
   - follow urine output
   .
   # hypoxia: continued to have oxygen sats in the mid to high 90s.  CXR
   this AM appears worse with white out of the left lung, suggest
   atelectasis/collapse.  Likely secondary to trauma regarding
   intubation/extubation, barotrauma, pain.
   - several episodes of desaturation yesterday
   - currently satting high 90s on oxygen facemask.  Frequently takes off
   mask voluntarily.
   - chest PT to mobilize secretions does not appear to be improving
   condition, patient will unlikely cooperate with incentive spirometry
   - trial with intermittent positive pressure noninvasive mask
   unsuccessful
   - talk to family about bronch should conservative management fail
   - continue with antibiotics
   - unable to diurese pleural fluid given hypotension
   .
   # A fib with RVR:  Occurred in the setting of acute disease -
   reintubation/extubation and ERCP, now found to have partial lung
   collapse and MRSA bacteremia, all of  which may have been
   contributors.  Also considering volume depletion as a cause given his
   recent hx of poor PO intake.
   - No known history of a. fib in the past.  No underlying pulmonary
   disease but questionable hx of cardiomyopathy.
   - continues to be in sinus, rate in the low 100s
   - treat tachy with IVF, pain control, and txt his infection
   - episodes of hypotension responded well to IV boluses with goal SBP >
   90
   - continue 1L NS boluses for SBP goal > 90
   - urine output has remained robust >30 cc/h
   .
   # transaminitis, increased alk phos/total bili:  s/p ERCP with
   sphincterotomy on [**8-28**] showing an impacted stone in the major papilla
   and with successful removal of over 10 gallstones.  Hepatic cholestasis
   may also be secondary to depakote or fexofenadine medication.
   - liver enzymes trending downward with the exeption of t bili.  Remains
   jaundiced.
   - ERCP recs: continue to watch bili, alk phos, LFTs; duct has been
   cleared so should start to fall, if continues to rise, will discuss
   about possible stent insertion but this discussion is premature at this
   point.
   - avoid hepatotoxins; depakote, zonegram and fexofenadine have been
   d/c'ed.
   - Hepatitis serologies all negative
   - hepatology signed off
   .
   # anemia: drop in hematocrit from 32 to 28.  Normocytic.
   - low fe, low TIBC, and elevated ferritin suggests anemia of chronic
   disease.
   - prior folate, B12 WNL.
   - continue to trend hematocrit; transfuse above 21
   #. [**Location (un) 8891**]-Gastaut Syndrome: followed by neuro and seizure activity
   appears to be at baseline.
   - Keppra continued at 1500mg IV BID.  Will change to PO if patient is
   able to tolerate (has had successful PO intake when meds mixed with
   tomato juice)
   - duazepan 10mg IM q6h prn seizure longer than 5 minutes of >3h
   - may need 1:1 sitter
   .
   # Questionable encephalopathy: Spoke to mother, who reports patient is
   at baseline mental status with no changes.  EEG suggested
   encephalopathy, and per neurology, unlikely related to seizure
   activity.  Suggested to be due to toxic/metabolic effect of cholestatic
   hepatitis.
   - aspiration precautions
   .
   #. FEN: still NPO, monitor lytes, continued on maintenance fluids
   .
   #. PPx: SC Heparin, bowel regimen
   .
   #. Code: DNR/DNI, confirmed with HCP
   .
   #. Communication: [**Name (NI) **] [**Name (NI) 8892**] (HCP) [**Telephone/Fax (1) 8893**]
   .
   #. Dispo: ICU until rate controlled
   ICU Care
   Nutrition: NPO, advance diet this AM if tolerable
   Glycemic Control:
   Lines:
   22 gauge
   20 Gauge - [**2164-8-28**] 08:58 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer:  none
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not resuscitate).  Confirmed with HCP.
   Disposition: ICU today

2164-08-31 10:52:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   Atelectasis
   Cholelithiasis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with persistent elevation in bilirubin
   -Patient with transient hypotension overnight requiring fluid bolus
   -Patient with persistent tachypnea and O2 requirement
   History obtained from Medical records
   Patient unable to provide history: non-verbal
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-8-30**] 10:16 PM
   Vancomycin - [**2164-8-31**] 08:50 AM
   Metronidazole - [**2164-8-31**] 09:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-8-31**] 12:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.9
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2164-8-31**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.2
   HR: 106 (88 - 120) bpm
   BP: 103/72(79) {67/38(41) - 120/97(103)} mmHg
   RR: 31 (23 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,482 mL
                                                                  2,003 mL
   PO:
             TF:
   IVF:
                                                                  6,482 mL
                                                                  2,003 mL
   Blood products:
   Total out:
                                                                  4,920 mL
                                                                  1,660 mL
   Urine:
                                                                  4,920 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,562 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   193 K/uL
   121 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   4 mg/dL
   109 mEq/L
   138 mEq/L
   24.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
                             [**2164-8-30**]  03:52 AM
                             [**2164-8-31**]  03:46 AM
   WBC
   8.9
   6.8
   Hct
   28.1
   24.5
   Plt
   212
   193
   Cr
   0.7
   0.9
   0.7
   0.7
   Glucose
   62
   64
   132
   121
   Other labs: PT / PTT / INR:16.7/43.3/1.5, ALT / AST:56/36, Alk Phos / T
   Bili:342/10.8, Amylase / Lipase:27/18, Albumin:2.1 g/dL, LDH:133 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR--Worsening collapse in the left lung with new complete
   opacification as compared to [**8-29**]
   Assessment and Plan
   35 yo male with history of seizure disorder and with cholelithiasis and
   now admitted to ICU with A-fib, hypoxemia and atelectatsis.   He does
   have persistent elevation in bilirubin through to today concerning for
   persistent obstruction but with (Ap-342 (477), T. Bili 10.8 (11.2)).
   some trend down in liver associated enzymes that have remained
   elevated.  It is very concerning that the patient has had progression
   of complete collapse of left lung.
   1) CHOLECYSTITIS, CALCULOUS
He has some markers of improvement (WBC
   down, transaminases down), but additional markers such as T. Bili and
   Alk Phos which have been slow to decline
   -Vanco/Cipro/Flagyl to continue
   -Will consult with ERCP to consider timing of repeat intervention
   -If ERCP pursued will  need intubation
at which time intubation would
   be required
   2)Hypoxemia--Due to Atelectasis
this is persistent and severe and
   progressive from 2 days ago.  We are limited in terms of being able to
   recruit patient effort and compliance with interventions such as chest
   PT and cough.  We will have to consider nasal trumpet, [**Last Name (un) 1446**]-tracheal
   suctioning, positioning as possible.
   -If intubated for procedrue will pursue bronchoscopy
   -For now will continue with nasal trumpet and [**Last Name (un) 1446**]-tracheal suctioning
   3)Seizure Disorder
   Keppra
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
   resolved
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   22 Gauge - [**2164-8-29**] 09:02 AM
   20 Gauge - [**2164-8-29**] 10:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 38

2164-09-01 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - bronch performed, clear airways.  CXR showed little improvement.
   - ordered CT: Complete opacification of the left lung with medium size
   pleural effusion, which could be due to aspiration or pneumonia.  Focal
   airspace opacities at the right lung base, could be due to apsiration,
   or focal pneumonia.  Did not recommend tapping pleural effusion.
   - BAL results: no organisms, no pmns on gram stain.  Polys: 91, bands:
   2, lymphs: 1, monos: 0, eos: 1, macro: 5
   - at 9:30PM, went back into a fib with RVR in 150s, pushed metoprolol
   5mg X 3.  1L NS Bolus given.  Rate fluctuating between 110s-130s.
   Placed on esmolol gtt with HR in 130s.  Rate controlled on dilt gtt,
   but still a. fib.  Given 2.5L IVF over course of night in attempt to
   keep SBP >90.
   - at 6:30 AM, started on levophed bc SBP in the 70s not responding to
   fluids.  A line was placed.
   - ERCP recs: because AP is trending down, monitor bili trend.
   Cholestatic process seems to be getting better. If levels remain to
   decrease, ERCP most likely not needed.
   - 11 PM Hct: 23.8 -> 4AM hct: 24.6
   - 6PM LFTs, alk phos, t bili: all trending down
   - hemolysis labs
   - Vanc trough was low -> decr Vanc interval to q8h
   - PICC was placed
   - remain intubated overnight
   - ordered u/a and urine cx
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-8-31**] 08:00 PM
   Vancomycin - [**2164-9-1**] 12:00 AM
   Metronidazole - [**2164-9-1**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Diltiazem - 12 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2164-8-31**] 04:50 PM
   Fentanyl - [**2164-8-31**] 08:00 PM
   Metoprolol - [**2164-8-31**] 10:20 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-1**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 91 (79 - 133) bpm
   BP: 73/53(57) {73/45(53) - 107/72(79)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,536 mL
                                                                  2,345 mL
   PO:
             TF:
   IVF:
                                                                  5,536 mL
                                                                  2,345 mL
   Blood products:
   Total out:
                                                                  2,995 mL
                                                                    167 mL
   Urine:
                                                                  2,995 mL
                                                                     67 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,541 mL
                                                                  2,178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.42/38/114/21/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Gen: intubated, sedated.
   Heent: Scleral icterus positive.  Dry mucous membranes.  Neck supple.
   Resp: left sided rhonchi, no dullness or hyperresonance appreciated.
   CV: Irregularly irregular rate with SEM best ausculatated over left
   sternal border.
   Abd: Bowel sounds present, abdomen soft, NT, ND.  No guarding,
   rigidity, or rebound pain.
   Extrem: Warm and well-perfused.  No pedal edema.
   Neuro:  Does not speak.  Will not track gaze.  PERRLA.  Can move all
   extremities.
   Skin: Jaundiced
   Labs / Radiology
   205 K/uL
   7.9 g/dL
   101 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.8 mEq/L
   5 mg/dL
   108 mEq/L
   137 mEq/L
   24.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
                             [**2164-8-30**]  03:52 AM
                             [**2164-8-31**]  03:46 AM
                             [**2164-8-31**]  03:42 PM
                             [**2164-8-31**]  11:08 PM
                             [**2164-9-1**]  03:28 AM
   WBC
   8.9
   6.8
   6.8
   Hct
   28.1
   24.5
   23.8
   24.6
   Plt
   [**Telephone/Fax (3) 8949**]
   Cr
   0.7
   0.9
   0.7
   0.7
   0.7
   TCO2
   25
   Glucose
   62
   64
   132
   121
   101
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Haptoglobin: 182, FDP: 0-10, fibrinogen: 668
   ALT: 45, AST: 24, AP: 297, LDH: 114, t bili: 9.3, lipase: 18
   MICRO:
   Bronch Lavage: 91 polys, 2 bands, 11 lymphs, 0 monos, 1 eos, 5 macros
   GRAM STAIN (Final [**2164-8-31**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary): Pending
   - positive MRSA from [**8-28**]
   - blood culture ([**8-29**]): staph aureus coag +, resistant to oxacillin.
   ([**8-30**], [**8-31**] cultures pending)
   - urine cx ([**8-29**], 19): pending
   IMAGING:
   Chest CT ([**9-1**]) prelim
   Complete opacification of the left lung with medium size pleural
   effusion,
   which could be due to aspiration or pneumonia, correlate with clinical
   symptoms.
   Focal airspace opacities at the right lung base, could be due to
   apsiration,
   or focal pneumonia, and correlation [**Doctor Last Name 6878**] clinical symptoms is
   recommended
   - echo ([**8-30**]):
   IMPRESSION: No evidence of endocarditis or abscess. Hyperdynamic LV
   systolic function. Normal diastolic function. No significant valvular
   regurgitation seen.
   - CXR: ([**8-31**]): continued left sided collapse of lung/pleural effusion
   Assessment and Plan
   35yo M with PMH of [**Location (un) 8891**]-Gastaut Syndrome, s/p ERCP for gallstones in
   the biliary tree, transferred to the ICU for atrial fibrillation with
   RVR and atelectasis.
   .
   # sepsis: gram MRSA bacteremia.  Afebrile overnight, with downtrending
   WBC.  Source of infection may be from pneumonia or biliary source s/p
   ERCP, also concern for urinary source and VRE given history of
   prostatitis and introduction through the skin given difficulty with
   Ivs, aspiration pneumonia given intubation/extubation.
   - continue on day 4 of vancomycin 1g q8h hours (day 1: [**8-29**])
   - Continue day 4 of 5 day course of Cipro 400mg IV q12 and flagyl 500mg
   IV q8h this AM (day 1: [**8-29**] of 5 day course).  Patient has
   pen/cephalosporin allergy.
   - echo does not suggest endocarditis, but suboptimal study
   - Has 2 peripheral Ivs for access and PICC line placed yesterday
   - required to start levophed this AM due to SBPs in the 70s.  Will
   attempt to wean.
   - continue IVF boluses as needed to keep SBP > 90
   - follow urine output, which has dwindled down
   - follow cultures
   .
   # hypoxia: CXR continues to show white out of the left lung, suggest
   atelectasis/collapse.  Likely secondary to pneumonia vs. aspiration
   pneumonia.  Medium sized pleural effusion present.  Remains intubated.
   - will stay intubated for at least 24 hours in the setting of
   aggressive diuresis last night and evolving consolidation
   - currently satting high 90s on oxygen facemask.  Frequently takes off
   mask voluntarily.
   - s/p bronchoscopy yesterday with clear airways; repeat CXR did not
   show improvement in CXR.  Follow BAL analysis.
   - CT showed complete opacification of the left lung with medium size
   pleural effusion, which could be due to aspiration or pneumonia.  Focal
   airspace opacities at the right lung base, could be due to apsiration,
   or focal pneumonia.  Did not recommend tapping pleural effusion.
   - continue with antibiotics as above
   - unable to diurese pleural fluid given hypotension
   - keep left side up
   - maintain intubation for at least another 24 hours till we get a
   better picture with his septic picture.
   .
   # A fib with RVR:  re-occurred overnight.  Currently rate controlled on
   dilt gtt.  Will attempt to wean today if tolerated.  Occurred in the
   setting of acute disease - reintubation/extubation and ERCP, now found
   to have left  lung consolidation and MRSA bacteremia, all of  which may
   have been contributors.  Also considering volume depletion as a cause
   given his recent hx of poor PO intake.
   - was given IVF boluses to maintain SBP, rate controlled on dilt gtt
   - No known history of a. fib in the past.  No underlying pulmonary
   disease but questionable hx of cardiomyopathy.
   - treat tachy with IVF, pain control, and txt his infection
   - given 2.5L IVF, but ultimately had to initiate levophed
   .
   # transaminitis, increased alk phos/total bili:  s/p ERCP with
   sphincterotomy on [**8-28**] showing an impacted stone in the major papilla
   and with successful removal of over 10 gallstones.  Hepatic cholestasis
   may also be secondary to depakote or fexofenadine medication.
   - liver enzymes trending downward.  Remains jaundiced.  Will continue
   to trend.
   - ERCP recs: continue to watch bili, alk phos, LFTs.  Trending down and
   no need for ercp given downtrending results
   - avoid hepatotoxins; depakote, zonegram and fexofenadine have been
   d/c'ed.
   - Hepatitis serologies all negative
   - hepatology signed off
   .
   # anemia: drop in hematocrit from 32 to 28 to now 24.5.  Normocytic.
   - low fe, low TIBC, and elevated ferritin suggests anemia of chronic
   disease.
   - prior folate, B12 WNL.
   - continue to trend hematocrit; transfuse above 21
   - hemolysis labs wnl
   .
   #. [**Location (un) 8891**]-Gastaut Syndrome: followed by neuro and seizure activity
   appears to be at baseline.
   - Keppra continued at 1500mg IV BID.  Will change to PO if patient is
   able to tolerate (has had successful PO intake when meds mixed with
   tomato juice)
   - duazepan 10mg IM q6h prn seizure longer than 5 minutes of >3h
   - may need 1:1 sitter
   .
   # Questionable encephalopathy: Spoke to mother, who reports patient is
   at baseline mental status with no changes.  EEG suggested
   encephalopathy, and per neurology, unlikely related to seizure
   activity.  Suggested to be due to toxic/metabolic effect of cholestatic
   hepatitis.
   - aspiration precautions
   .
   #. FEN: still NPO; will need to touch base with GI today to determine
   if can start TF vs. TPN, monitor lytes, continued on maintenance fluids
   .
   #. PPx: SC Heparin, bowel regimen
   .
   #. Code: DNR/DNI, confirmed with HCP
   .
   #. Communication: [**Name (NI) **] [**Name (NI) 8892**] (HCP) [**Telephone/Fax (1) 8893**]
   .
   #. Dispo: ICU until rate controlled
   ICU Care
   Nutrition: NPO, advance diet this AM if tolerable; consult GI
   Glycemic Control:
   Lines:
   22 gauge
   20 Gauge - [**2164-8-28**] 08:58 PM
   PICC LINE
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer:  none
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not resuscitate).  Confirmed with HCP.
   Disposition: ICU today

2164-09-01 08:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Seizure disorder
   Admitted with gallstones
   Now resp failure due to volume loss on left
   Returned to a-fib
   24 Hour Events:
 INVASIVE VENTILATION - START [**2164-8-31**] 01:50 PM
 BRONCHOSCOPY - At [**2164-8-31**] 04:30 PM
 PICC LINE - START [**2164-8-31**] 08:00 PM
 EKG - At [**2164-8-31**] 10:00 PM
 ARTERIAL LINE - START [**2164-9-1**] 06:47 AM
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-8-31**] 08:00 PM
   Vancomycin - [**2164-9-1**] 12:00 AM
   Metronidazole - [**2164-9-1**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Diltiazem - 12 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2164-8-31**] 04:50 PM
   Metoprolol - [**2164-8-31**] 10:20 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-1**] 12:00 AM
   Fentanyl - [**2164-9-1**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-1**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 98 (79 - 133) bpm
   BP: 96/60(71) {96/60(71) - 96/60(71)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,536 mL
                                                                  2,426 mL
   PO:
             TF:
   IVF:
                                                                  5,536 mL
                                                                  2,426 mL
   Blood products:
   Total out:
                                                                  2,995 mL
                                                                    177 mL
   Urine:
                                                                  2,995 mL
                                                                     77 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,541 mL
                                                                  2,249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/38/114/21/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Intubated, sedated
   jaundice
   Lungs
 decreased on left
   Hrt irreg
   Abd benign
   Extrem no edema
   Labs / Radiology
   7.9 g/dL
   205 K/uL
   101 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.8 mEq/L
   5 mg/dL
   108 mEq/L
   137 mEq/L
   24.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2164-8-29**]  03:16 AM
                             [**2164-8-29**]  05:18 AM
                             [**2164-8-30**]  03:52 AM
                             [**2164-8-31**]  03:46 AM
                             [**2164-8-31**]  03:42 PM
                             [**2164-8-31**]  11:08 PM
                             [**2164-9-1**]  03:28 AM
   WBC
   8.9
   6.8
   6.8
   Hct
   28.1
   24.5
   23.8
   24.6
   Plt
   [**Telephone/Fax (3) 8949**]
   Cr
   0.7
   0.9
   0.7
   0.7
   0.7
   TCO2
   25
   Glucose
   62
   64
   132
   121
   101
   Other labs: PT / PTT / INR:16.7/43.3/1.5, ALT / AST:45/24, Alk Phos / T
   Bili:297/9.3, Amylase / Lipase:27/18, Fibrinogen:668 mg/dL, Albumin:1.9
   g/dL, LDH:114 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   BAL negaive GS, cx pending
   Chest CT
 consolidation throughout left, small effusion
   CXR
 unchaged opacification on left
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
 cont supportive care, follow labs
 HYPOTENSION  - on pressors, wean as tolerated, continue IVF as needed
 bacteremia
 on vanco, continue
 ATRIAL FIBRILLATION (AFIB)
 dilt drip, wean as possible
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 cont current regimen
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) / pna
 cont abx, wean vent
   as tolerated
   Anemia
 stable, follow
   ICU Care
   Nutrition: npo for now, may need tpn
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-29**] 10:08 PM
   PICC Line - [**2164-8-31**] 08:00 PM
   Arterial Line - [**2164-9-1**] 06:47 AM
   Prophylaxis:
   DVT: boots, sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :   ICU
   Total time spent:   37

2164-09-02 07:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Still on pressors
   Chest CT done
   Off dilt drip briefly
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-9-1**] 10:00 PM
   Metronidazole - [**2164-9-2**] 12:00 AM
   Vancomycin - [**2164-9-2**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Diltiazem
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-9-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 115 (92 - 124) bpm
   BP: 92/84(87) {90/53(65) - 116/84(87)} mmHg
   RR: 18 (17 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,523 mL
                                                                  1,314 mL
   PO:
             TF:
                                                                    113 mL
                                                                    151 mL
   IVF:
                                                                  7,309 mL
                                                                  1,063 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    190 mL
   Urine:
                                                                    385 mL
                                                                    190 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  7,028 mL
                                                                  1,124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/38/109
   Ve: 8.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Intubated, sedated
   Hrt irreg
   Lung bronchial on left
   Abd benign
   Extrem thin
   Labs / Radiology
   7.8 g/dL
   293 K/uL
   101 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   132 mEq/L
   23.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-8-30**]  03:52 AM
                             [**2164-8-31**]  03:46 AM
                             [**2164-8-31**]  03:42 PM
                             [**2164-8-31**]  11:08 PM
                             [**2164-9-1**]  03:28 AM
                             [**2164-9-1**]  08:06 AM
                             [**2164-9-1**]  05:02 PM
                             [**2164-9-1**]  10:27 PM
                             [**2164-9-2**]  04:16 AM
                             [**2164-9-2**]  05:05 AM
   WBC
   8.9
   6.8
   6.8
   7.5
   Hct
   28.1
   24.5
   23.8
   24.6
   24.6
   23.6
   Plt
   [**Telephone/Fax (3) 8966**]93
   Cr
   0.7
   0.7
   0.7
   2.4
   TCO2
   25
   20
   21
   22
   Glucose
   132
   121
   101
   101
   Other labs: PT / PTT / INR:20.6/37.9/1.9, ALT / AST:31/24, Alk Phos / T
   Bili:266/8.2, Amylase / Lipase:27/18, Fibrinogen:668 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.8 g/dL, LDH:178 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Chest CT
 near complete left lung consolidation, small bilat effusions
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
 cont supportive care, follow labs which
   are improving
 HYPOTENSION  - on pressors, wean as tolerated, continue IVF as needed
 bacteremia
 on vanco, continue
 ATRIAL FIBRILLATION (AFIB)
 dilt drip, wean as possible
   New renal insufficiency
 follow, likely related to hypotension and
   meds, renal dose vanco
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 cont current regimen
 RESPIRATORY FAILURE / pna
 cont abx, wean vent as tolerated
   Anemia
 stable, follow
   Coagulopathy
 INR rising, follow, consider DIC work-up
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-1**] 12:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-29**] 10:08 PM
   PICC Line - [**2164-8-31**] 08:00 PM
   Arterial Line - [**2164-9-1**] 06:47 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  ICU
   Total time spent:  36 min

2164-09-02 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - chest CT: Small left pleural effusion with complete opacification of
   the left lung with patent airways, could be due to aspiration or
   pneumonia.
   - [**Month (only) 453**] FiO2 from 50% to 40%, increase PEEP from 5 to 8, ABG good.
   - dilt gtt was stopped at about 5pm, rate down but still in Afib
   - continued to be on pressor, was given LR for hypotension to 80s
   - ERCP recs: can start to give tube feeds. LFT elevation likely from
   hypotension
   - mom came in the pm, was updated
   - changed vanc to q12h bc trough was high
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-9-1**] 10:00 PM
   Metronidazole - [**2164-9-2**] 12:00 AM
   Vancomycin - [**2164-9-2**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-9-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-2**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 115 (92 - 124) bpm
   BP: 92/84(87) {90/53(65) - 116/84(87)} mmHg
   RR: 18 (17 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,523 mL
                                                                  1,327 mL
   PO:
             TF:
                                                                    113 mL
                                                                    156 mL
   IVF:
                                                                  7,309 mL
                                                                  1,070 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    190 mL
   Urine:
                                                                    385 mL
                                                                    190 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  7,028 mL
                                                                  1,137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/38/109/19/-3
   Ve: 8.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Gen: intubated, sedated.
   Heent: Scleral icterus positive.  Dry mucous membranes.  Neck supple.
   Resp: left sided rhonchi, no dullness or hyperresonance appreciated.
   CV: Irregularly irregular rate with SEM best ausculatated over left
   sternal border.
   Abd: Bowel sounds present, abdomen soft, NT, ND.  No guarding,
   rigidity, or rebound pain.
   Extrem: Warm and well-perfused.  No pedal edema.
   Neuro:  Does not speak.  Will not track gaze.  PERRLA.  Can move all
   extremities.
   Skin: Jaundiced
   Labs / Radiology
   293 K/uL
   7.8 g/dL
   101 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   132 mEq/L
   23.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-8-30**]  03:52 AM
                             [**2164-8-31**]  03:46 AM
                             [**2164-8-31**]  03:42 PM
                             [**2164-8-31**]  11:08 PM
                             [**2164-9-1**]  03:28 AM
                             [**2164-9-1**]  08:06 AM
                             [**2164-9-1**]  05:02 PM
                             [**2164-9-1**]  10:27 PM
                             [**2164-9-2**]  04:16 AM
                             [**2164-9-2**]  05:05 AM
   WBC
   8.9
   6.8
   6.8
   7.5
   Hct
   28.1
   24.5
   23.8
   24.6
   24.6
   23.6
   Plt
   [**Telephone/Fax (3) 8966**]93
   Cr
   0.7
   0.7
   0.7
   2.4
   TCO2
   25
   20
   21
   22
   Glucose
   132
   121
   101
   101
   Other labs:
   PT / PTT / INR:20.6/37.9/1.9,
   ALT / AST:31/24, Alk Phos / T Bili:266/8.2,
   Albumin:1.8 g/dL, LDH:178 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   MICRO:
   Bronch Lavage: 91 polys, 2 bands, 11 lymphs, 0 monos, 1 eos, 5 macros
   GRAM STAIN (Final [**2164-8-31**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary): Pending
   - positive MRSA from [**8-28**]
   - blood culture ([**8-29**]): staph aureus coag +, resistant to oxacillin.
   ([**8-30**], [**8-31**] cultures pending)
   - urine cx ([**8-29**], 19): pending
   CT Chest:
   IMPRESSION:
   1. Small left pleural effusion with complete opacification of the left
   lung
   with patent airways, could be due to aspiration or pneumonia. Please
   correlate with clinical symptoms. Mild focal opacities at the right
   lung base
   are noted as well. Please correlate with clinical symptoms.
   2. Gallstones, and trace ascites in the abdomen.
   CXR:
   Assessment and Plan
   35yo M with PMH of [**Location (un) 8891**]-Gastaut Syndrome, s/p ERCP for gallstones in
   the biliary tree, transferred to the ICU for atrial fibrillation with
   RVR and atelectasis.
   .
   # sepsis: gram MRSA bacteremia.  Afebrile overnight, with downtrending
   WBC.  Source of infection may be from pneumonia or biliary source s/p
   ERCP, also concern for urinary source and VRE given history of
   prostatitis and introduction through the skin given difficulty with
   Ivs, aspiration pneumonia given intubation/extubation.
   - continue on day 4 of vancomycin 1g q8h hours (day 1: [**8-29**])
   - Continue day 4 of 5 day course of Cipro 400mg IV q12 and flagyl 500mg
   IV q8h this AM (day 1: [**8-29**] of 5 day course).  Patient has
   pen/cephalosporin allergy.
   - echo does not suggest endocarditis, but suboptimal study
   - Has 2 peripheral Ivs for access and PICC line placed yesterday
   - required to start levophed this AM due to SBPs in the 70s.  Will
   attempt to wean.
   - continue IVF boluses as needed to keep SBP > 90
   - follow urine output, which has dwindled down
   - follow cultures
   .
   # hypoxia: CXR continues to show white out of the left lung, suggest
   atelectasis/collapse.  Likely secondary to pneumonia vs. aspiration
   pneumonia.  Medium sized pleural effusion present.  Remains intubated.
   - will stay intubated for at least 24 hours in the setting of
   aggressive diuresis last night and evolving consolidation
   - currently satting high 90s on oxygen facemask.  Frequently takes off
   mask voluntarily.
   - s/p bronchoscopy yesterday with clear airways; repeat CXR did not
   show improvement in CXR.  Follow BAL analysis.
   - CT showed complete opacification of the left lung with medium size
   pleural effusion, which could be due to aspiration or pneumonia.  Focal
   airspace opacities at the right lung base, could be due to apsiration,
   or focal pneumonia.  Did not recommend tapping pleural effusion.
   - continue with antibiotics as above
   - unable to diurese pleural fluid given hypotension
   - keep left side up
   - maintain intubation for at least another 24 hours till we get a
   better picture with his septic picture.
   .
   # A fib with RVR:  re-occurred overnight.  Currently rate controlled on
   dilt gtt.  Will attempt to wean today if tolerated.  Occurred in the
   setting of acute disease - reintubation/extubation and ERCP, now found
   to have left  lung consolidation and MRSA bacteremia, all of  which may
   have been contributors.  Also considering volume depletion as a cause
   given his recent hx of poor PO intake.
   - was given IVF boluses to maintain SBP, rate controlled on dilt gtt
   - No known history of a. fib in the past.  No underlying pulmonary
   disease but questionable hx of cardiomyopathy.
   - treat tachy with IVF, pain control, and txt his infection
   - given 2.5L IVF, but ultimately had to initiate levophed
   .
   # transaminitis, increased alk phos/total bili:  s/p ERCP with
   sphincterotomy on [**8-28**] showing an impacted stone in the major papilla
   and with successful removal of over 10 gallstones.  Hepatic cholestasis
   may also be secondary to depakote or fexofenadine medication.
   - liver enzymes trending downward.  Remains jaundiced.  Will continue
   to trend.
   - ERCP recs: continue to watch bili, alk phos, LFTs.  Trending down and
   no need for ercp given downtrending results
   - avoid hepatotoxins; depakote, zonegram and fexofenadine have been
   d/c'ed.
   - Hepatitis serologies all negative
   - hepatology signed off
   .
   # anemia: drop in hematocrit from 32 to 28 to now 24.5.  Normocytic.
   - low fe, low TIBC, and elevated ferritin suggests anemia of chronic
   disease.
   - prior folate, B12 WNL.
   - continue to trend hematocrit; transfuse above 21
   - hemolysis labs wnl
   .
   #. [**Location (un) 8891**]-Gastaut Syndrome: followed by neuro and seizure activity
   appears to be at baseline.
   - Keppra continued at 1500mg IV BID.  Will change to PO if patient is
   able to tolerate (has had successful PO intake when meds mixed with
   tomato juice)
   - duazepan 10mg IM q6h prn seizure longer than 5 minutes of >3h
   - may need 1:1 sitter
   .
   # Questionable encephalopathy: Spoke to mother, who reports patient is
   at baseline mental status with no changes.  EEG suggested
   encephalopathy, and per neurology, unlikely related to seizure
   activity.  Suggested to be due to toxic/metabolic effect of cholestatic
   hepatitis.
   - aspiration precautions
   .
   #. FEN: still NPO; will need to touch base with GI today to determine
   if can start TF vs. TPN, monitor lytes, continued on maintenance fluids
   .
   #. PPx: SC Heparin, bowel regimen
   .
   #. Code: DNR/DNI, confirmed with HCP
   .
   #. Communication: [**Name (NI) **] [**Name (NI) 8892**] (HCP) [**Telephone/Fax (1) 8893**]
   .
   #. Dispo: ICU until rate controlled
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-1**] 12:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-29**] 10:08 PM
   PICC Line - [**2164-8-31**] 08:00 PM
   Arterial Line - [**2164-9-1**] 06:47 AM
   Prophylaxis:
   DVT:
   subcutaneous heparin
   Stress ulcer:  none
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not resuscitate).  Confirmed with HCP.
   Disposition: ICU today

2164-09-03 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - dilt gtt restarted at about 10am as he went back to Afib with RVR,
   also given IVF bolus ->remains on gtt
   - Cr bumped to 3.2 -> this AM 3.6, likely ATN given hypotension in the
   setting of sepsis.  Also vanc trough was 46.4.  UA and urine lytes
   sent, hold off on renal consult -> FeNa was 2%
   - vanc held, recheck trough tomorrow morning
   - INR elevated at 2.0, heparin was changed from TID to [**Hospital1 **] -> then dc'd
   - ERCP recs: follow daily LFTs, t bili decreasing, INR 1.9 watch for GI
   bleed
   - low UOP -> gave 500cc NS
   - went on PS 10/5, satting well with gas of 7.36/ 36/  115     HCO3 21
   FiO2%:40; Rate:/23; TV:375; PEEP:5
   Cr 3.2
   - BAL cx growing s. aureus coag +
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-2**] 02:00 AM
   Ciprofloxacin - [**2164-9-2**] 10:28 AM
   Metronidazole - [**2164-9-3**] 12:32 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-9-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-3**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 97 (95 - 130) bpm
   BP: 93/69(78) {85/53(64) - 104/84(87)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 59.5 kg
             Total In:
                                                                  5,332 mL
                                                                    648 mL
   PO:
             TF:
                                                                    599 mL
                                                                    263 mL
   IVF:
                                                                  4,303 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                    513 mL
                                                                     90 mL
   Urine:
                                                                    513 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,819 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 382 (315 - 420) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.36/36/115/19/-4
   Ve: 9.8 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Gen: intubated, sedated
   Heent: Scleral icterus positive.  Dry mucous membranes.  Neck supple.
   Resp: left sided bronchial breath sounds
   CV: Irregularly irregular rate with SEM best ausculatated over left
   sternal border.
   Abd: Bowel sounds present, abdomen soft, NT, ND.  No guarding,
   rigidity, or rebound pain.
   Extrem: Warm and well-perfused.  No pedal edema.
   Neuro:  Does not speak.  Will not track gaze.  PERRLA.  Can move all
   extremities.
   Skin: Jaundiced
   Labs / Radiology
   297 K/uL
   7.5 g/dL
   109 mg/dL
   3.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   17 mg/dL
   106 mEq/L
   131 mEq/L
   22.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2164-8-31**]  11:08 PM
                             [**2164-9-1**]  03:28 AM
                             [**2164-9-1**]  08:06 AM
                             [**2164-9-1**]  05:02 PM
                             [**2164-9-1**]  10:27 PM
                             [**2164-9-2**]  04:16 AM
                             [**2164-9-2**]  05:05 AM
                             [**2164-9-2**]  03:45 PM
                             [**2164-9-2**]  04:01 PM
                             [**2164-9-3**]  03:31 AM
   WBC
   6.8
   7.5
   5.7
   Hct
   23.8
   24.6
   24.6
   23.6
   22.8
   Plt
   [**Telephone/Fax (3) 8981**]
   Cr
   0.7
   2.4
   3.2
   3.6
   TCO2
   20
   21
   22
   21
   Glucose
   101
   101
   110
   109
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   MICRO:
   Bronch Lavage: 91 polys, 2 bands, 11 lymphs, 0 monos, 1 eos, 5 macros
   GRAM STAIN (Final [**2164-8-31**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   BAL Culture:  STAPH AUREUS COAG +.    ~[**2154**]/ML.
   RESPIRATORY CULTURE (Preliminary): Pending
   - positive MRSA from [**8-28**]
   - blood culture ([**8-29**]): staph aureus coag +, resistant to oxacillin.
   ([**8-30**], [**8-31**] cultures pending)
   - urine cx ([**8-29**], 19): pending
   CT Chest:
   IMPRESSION:
   1. Small left pleural effusion with complete opacification of the left
   lung
   with patent airways, could be due to aspiration or pneumonia. Please
   correlate with clinical symptoms. Mild focal opacities at the right
   lung base
   are noted as well. Please correlate with clinical symptoms.
   2. Gallstones, and trace ascites in the abdomen.
   CXR: white out of left lung
   Assessment and Plan
   35yo M with PMH of [**Location (un) 8891**]-Gastaut Syndrome, s/p ERCP for gallstones in
   the biliary tree, transferred to the ICU for atrial fibrillation with
   RVR and atelectasis.
   .
   # sepsis: gram MRSA bacteremia.  Source of infection may be from
   pneumonia or biliary source s/p ERCP, also concern for urinary source
   and VRE given history of prostatitis and introduction through the skin
   given difficulty with Ivs, aspiration pneumonia given
   intubation/extubation.
   - continue on day 5 of vancomycin 1g q8h hours (day 1: [**8-29**]) ->
   however, Vanc trough was high, will d/c for now and recheck level
   before giving another dose
   - Continue day 5 of 5 day course of Cipro 400mg IV q12 and flagyl 500mg
   IV q8h this AM (day 1: [**8-29**] of 5 day course).  Patient has
   pen/cephalosporin allergy.
   - echo does not suggest endocarditis, but suboptimal study
   - Has 2 peripheral Ivs for access and PICC line placed yesterday
   - continue levophed, will attempt to wean.
   - continue IVF boluses as needed to keep SBP > 90
   - follow urine output
   - follow cultures
   .
   # hypoxia: CXR continues to show white out of the left lung, suggest
   atelectasis/collapse.  Likely secondary to pneumonia vs. aspiration
   pneumonia.  Medium sized pleural effusion present.  Remains intubated.
   - continue mechanical ventilation -> wean to PS [**4-22**] today
   - f/u cultures
   - CT showed complete opacification of the left lung with medium size
   pleural effusion, which could be due to aspiration or pneumonia.  Focal
   airspace opacities at the right lung base, could be due to apsiration,
   or focal pneumonia.  Did not recommend tapping pleural effusion.
   - continue with antibiotics as above
   - unable to diurese pleural fluid given hypotension
   - keep left side up
   .
   # ARF: Cr bumped up to 3.6 up from 0.7.  Diff incl prerenal, intrinsic,
   postrenal, most likely intrinsic (ATN) from hypotension and A fib
   w/RVR.
   - urine lytes
   - continue to monitor
   - consider renal c/s in future
   .
   # A fib with RVR: currently back on dilt gtt, in low 100s.   Will
   attempt to wean today if tolerated.  Occurred in the setting of acute
   disease - reintubation/extubation and ERCP, now found to have left
   lung consolidation and MRSA bacteremia, all of  which may have been
   contributors.  Also considering volume depletion as a cause given his
   recent hx of poor PO intake.
   - give IVF boluses as needed
   - No known history of a. fib in the past.  No underlying pulmonary
   disease but questionable hx of cardiomyopathy.
   - treat tachy with IVF, pain control, and txt his infection
   .
   # transaminitis, increased alk phos/total bili:  s/p ERCP with
   sphincterotomy on [**8-28**] showing an impacted stone in the major papilla
   and with successful removal of over 10 gallstones.  Hepatic cholestasis
   may also be secondary to depakote or fexofenadine medication.
   - liver enzymes trending downward.  Remains jaundiced.  Will continue
   to trend.
   - f/u ERCP recs
   - avoid hepatotoxins; depakote, zonegram and fexofenadine have been
   d/c'ed.
   - Hepatitis serologies all negative
   - hepatology signed off
   .
   # anemia: drop in hematocrit from 32 to 28 to now stable around 24.
   Normocytic.
   - low fe, low TIBC, and elevated ferritin suggests anemia of chronic
   disease.
   - prior folate, B12 WNL.
   - continue to trend hematocrit; transfuse above 21
   - hemolysis labs wnl
   .
   #. [**Location (un) 8891**]-Gastaut Syndrome: followed by neuro and seizure activity
   appears to be at baseline.
   - Keppra continue at 1500mg IV BID.  Will change to PO if patient is
   able to tolerate (has had successful PO intake when meds mixed with
   tomato juice)
   - duazepan 10mg IM q6h prn seizure longer than 5 minutes of >3h
   - may need 1:1 sitter
   - Neuro will see pt is there are any active Neuro issues
   .
   # Questionable encephalopathy: Spoke to mother, who reports patient is
   at baseline mental status with no changes.  EEG suggested
   encephalopathy, and per neurology, unlikely related to seizure
   activity.  Suggested to be due to toxic/metabolic effect of cholestatic
   hepatitis.
   - aspiration precautions
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-1**] 12:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-29**] 10:08 PM
   PICC Line - [**2164-8-31**] 08:00 PM
   Arterial Line - [**2164-9-1**] 06:47 AM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer:  none
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not resuscitate).  Confirmed with HCP. [**Name (NI) **]
   [**Name (NI) 8892**] (HCP) [**Telephone/Fax (1) 8893**]
   Disposition: ICU today

2164-09-03 10:07:00 Physician Attending Progress Note
Chief Complaint: Cholelithiasis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Dilt gtt restarted with A-fib with RVR seen
   -Patient with worsening renal failure
   -CT done with persistent consolidation of left lung and small effusion
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Cefuroxime
   Unknown;
   Prevacid (Oral) (Lansoprazole)
   Unknown;
   Red Dye
   Unknown;
   Proton Pump Inhibitors
   Unknown;
   Aspartame
   Unknown;
   Phenylalanine
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-2**] 02:00 AM
   Ciprofloxacin - [**2164-9-2**] 10:28 AM
   Metronidazole - [**2164-9-3**] 08:23 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-3**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 97 (89 - 130) bpm
   BP: 96/61(72) {85/53(64) - 107/80(87)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.4 kg (admission): 59.5 kg
             Total In:
                                                                  5,332 mL
                                                                    845 mL
   PO:
             TF:
                                                                    599 mL
                                                                    288 mL
   IVF:
                                                                  4,303 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                    513 mL
                                                                    112 mL
   Urine:
                                                                    513 mL
                                                                    112 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,819 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (315 - 420) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: 7.36/36/115/19/-4
   Ve: 8.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   297 K/uL
   109 mg/dL
   3.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   17 mg/dL
   106 mEq/L
   131 mEq/L
   22.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2164-8-31**]  11:08 PM
                             [**2164-9-1**]  03:28 AM
                             [**2164-9-1**]  08:06 AM
                             [**2164-9-1**]  05:02 PM
                             [**2164-9-1**]  10:27 PM
                             [**2164-9-2**]  04:16 AM
                             [**2164-9-2**]  05:05 AM
                             [**2164-9-2**]  03:45 PM
                             [**2164-9-2**]  04:01 PM
                             [**2164-9-3**]  03:31 AM
   WBC
   6.8
   7.5
   5.7
   Hct
   23.8
   24.6
   24.6
   23.6
   22.8
   Plt
   [**Telephone/Fax (3) 8981**]
   Cr
   0.7
   2.4
   3.2
   3.6
   TCO2
   20
   21
   22
   21
   Glucose
   101
   101
   110
   109
   Other labs: PT / PTT / INR:19.0/33.4/1.7, ALT / AST:21/24, Alk Phos / T
   Bili:265/6.9, Amylase / Lipase:27/18, Fibrinogen:668 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:1.8 g/dL, LDH:151 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Persistence of left sided opacification with
   consolidation--mildly improved.
   Microbiology: BAL--some
   Assessment and Plan
   35 yo male with [**Location (un) 8891**]-Gestaut syndrome now with admittion with
   cholelithiasis and obstruction with resulting cholecystitis now with
   worsening respiratory status with atelectasis and collapse of left lung
   seen requiring intubation and bronchoscopy.  Now he has persistent and
   worsening sepsis from likely from pulmonary source and this is now
   complicated by worsening renal failure through to this morning.  This
   represents a substantial and persistent worsening despite optimal
   efforts to support patient in the setting of acute illness
he has had
   cholecystitis initially but now with Staph Sepsis and persistence of
   substantial multi-lobar pneumonia.
   Patient had quality of life which had moved to a poor quality and not
   of a level that patient or his mother would continue to consider worth
   living
and this was before the acute illness.  With the evolution of
   significant and persistent insult of sepsis and respiratory failure
   patient has expected prolonged course with intubation, concern for need
   for tracheostomy and with the possibility of not being able to return
   to previous
unacceptable baseline the patient
s mother would request
   specifically that we move to CMO given likely prolonged course and
   limited expectation of being able to return to previous functional
   status.
   1)Respiratory Failure
Significant pneumonia and consolidation and
   having need for ongoing A/C support and pneumonia treatment.
   -Continue A/C
   -Move to right side down as possible.
   -Suction PRN
   -Will treat for PNA for 8 days with broad spectrum antibiotics
   2)Sepsis-Likely pulmonary source at this time, persistent hypotension
   -Vanco/Cipro/Flagyl
   -Norepinephrine
   3)Cholecystitis-
   -Improving lab studies
   4)Seizure Disorder
   Keppra
   5)Acute Renal Failure-
   -Likely secondary to sepsis with pre-renal insult and has been
   refractory to support thus far.
   -Will maintain adequate volume
   -Will maintain adequate BP support
   -have discussed extensively with patient
s family that we would
   consider further testing to evaluate for source
 CHOLECYSTITIS, CALCULOUS
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
   resolved
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-29**] 10:08 PM
   PICC Line - [**2164-8-31**] 08:00 PM
   Arterial Line - [**2164-9-1**] 06:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:   Will have patient move to comfort measures
   only today based upon patient wishes as expressed by his mother.
   [**Name (NI) 156**] status: DNR (do not resuscitate)
Will move to CMO status after
   discussions with social work
   Disposition :ICU
   Total time spent: 45 minutes